US04963566
To a solution of 8-(2-benzimidazolyl)thiomethyl-1-methyl-4-oxo-1,2,3,4-tetrahydroquinoline (300 mg) in tetrahydrofuran (10 ml) was added dropwise methyl lithium (1.5M solution in tetrahydrofuran) (1.33 ml) with stirring at -10° C. Then the mixture was stirred for 30 minutes at the same temperature. After distilling off the solvent, the residue was extracted with dichloromethane, washed with water, and dried, then the solvent was distilled off. The resulting residue was purified by silica gel column chromatography [eluent:n-hexane-ethyl acetate-dichloromethane (10:5:2)], and recrystallized from dichloromethane-diethyl ether to give 8-(2-benzimidazolyl)thiomethyl-4-hydroxy-1,4-dimethyl-1,2,3,4-tetrahydroquinoline (96 mg).

reactant | 8-(2-benzimidazolyl)thiomethyl-1-methyl-4-oxo-1,2,3,4-tetrahydroquinoline | 300 mg | N1=C(NC2=C1C=CC=C2)SCC=2C=CC=C1C(CCN(C21)C)=O | C18H17N3OS
reactant | methyl lithium | 1.5M, 1.33 ml | C[Li]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 8-(2-benzimidazolyl)thiomethyl-4-hydroxy-1,4-dimethyl-1,2,3,4-tetrahydroquinoline | 96 mg | N1=C(NC2=C1C=CC=C2)SCC=2C=CC=C1C(CCN(C21)C)(C)O | C19H21N3OS
